US07589095B2
To a stirring suspension of NaH (60% in oil, 7.66 g) in ether (480 ml) at 0° C. was added ethanol (479 μL), followed by γ-butyrolactone (6.18 ml). This was followed by dropwise addition of 1-(3-tert-butyl-phenyl)-ethanone (13.5 g) in ether (80 ml). The resulting mixture was allowed to warm to room temperature and stirred for 72 hours. After careful addition of ethanol (10.5 ml), ammonium chloride solution (10 g in 250 ml water) was then added, ether layer was then separated and washed with brine (300 ml), dried over MgSO4 and concentrated in vacuo to give 1,3-dioxo-6-hydroxy-1(3′-tert-butyl-phenyl)-hexane as crude product (18.5 g). This required no purification and was immediately used in the next reaction.

reactant | NaH | 7.66 g | [H-].[Na+]
reactant | γ-butyrolactone | 6.18 ml | C1(CCCO1)=O | C4H6O2
reactant | 1-(3-tert-butyl-phenyl)-ethanone | 13.5 g | C(C)(C)(C)C=1C=C(C=CC1)C(C)=O | C12H16O
reactant | ammonium chloride | 250 ml, 10 g | [Cl-].[NH4+]
solvent | ether | 480 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ethanol | 10.5 ml | C(C)O | C2H6O
solvent | ethanol | 479 μL | C(C)O | C2H6O
product | 1,3-dioxo-6-hydroxy-1(3′-tert-butyl-phenyl)-hexane | O=C(CC(CCCO)=O)C1=CC(=CC=C1)C(C)(C)C | C16H22O3
